US08895566B2
Bis(pinacolato)diboron (0.25 g, 1.0 mmol), tert-butyl 2-(6-bromobenzo[d]isothiazol-3-yl)-2-(4-chlorophenyl)ethylcarbamate (0.39 g, 0.83 mmol) and potassium acetate (0.25 g, 2.5 mmol) were added to DMF (4 mL). The reaction solution was deoxygenated and then dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct (34 mg, 0.042 mmol) was added. The mixture was heated to 80° C. for 4 hours. The mixture was cooled to room temperature and partitioned between EtOAc and water. The aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated. The resulting residue was purified by column chromatography (hexanes:EtOAc, 8:1) to give tert-butyl 2-(4-chlorophenyl)-2-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]isothiazol-3-yl)ethylcarbamate (0.36 g, 84%) as a solid. LCMS (APCI+) m/z 515, 517 [M+H]+; Rt=4.96 min.

reactant | Bis(pinacolato)diboron | 1.0 mmol, 0.25 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tert-butyl 2-(6-bromobenzo[d]isothiazol-3-yl)-2-(4-chlorophenyl)ethylcarbamate | 0.83 mmol, 0.39 g | BrC1=CC2=C(C(=NS2)C(CNC(OC(C)(C)C)=O)C2=CC=C(C=C2)Cl)C=C1 | C20H20BrClN2O2S
reactant | potassium acetate | 2.5 mmol, 0.25 g | C(C)(=O)[O-].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct | 0.042 mmol, 34 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(4-chlorophenyl)-2-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]isothiazol-3-yl)ethylcarbamate | 0.36 g, 84% | ClC1=CC=C(C=C1)C(CNC(OC(C)(C)C)=O)C1=NSC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C26H32BClN2O4S
